US07301034B2
3-(3-Bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole
114.7 g (0.45 mol) of 4-bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline, 857 mg of copper powder and 1000 ml of dimethyl disulfide are initially charged. Over a period of one hour, 49.2 g of n-butyl nitrite are metered in at 58-65° C., and the mixture is stirred until the reaction has gone to completion (about 1-3 hours). At 20-25° C., 130 ml of conc. hydrochloric acid are added, and the mixture is stirred for 20-30 minutes. 130 ml of water are added, and the phases are then separated. Washing is repeated twice. The organic phase is concentrated, giving 114.4 g of product (yield: 89%).

reactant | 4-bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | 0.45 mol, 114.7 g | BrC1=C(C(=C(N)C=C1)C1=NOCC1)C | C10H11BrN2O
reactant | dimethyl disulfide | 1000 ml | CSSC | C2H6S2
reactant | n-butyl nitrite | 49.2 g | N(=O)OCCCC | C4H9NO2
reactant | hydrochloric acid | 130 ml | Cl | ClH
catalyst | copper | 857 mg | [Cu] | Cu
solvent | water | 130 ml | O | H2O
product | 3-(3-Bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | 114.4 g, yield: 89% | BrC=1C(=C(C(=CC1)SC)C1=NOCC1)C | C11H12BrNOS
